US07759030B2
Di-p-tolylamine (12.8 g (0.065 mol)), 14.0 g (0.029 mol) of 4,4″-diiodo-p-terphenyl, 4.7 g (0.034 mol) of anhydrous potassium carbonate, 0.51 g (0.008 mol) of copper powder and 30 ml of n-dodecane were mixed, and heated up to 200 to 210° C. while introducing nitrogen gas, followed by stirring for 30 hours. After the termination of the reaction, the reaction product was extracted with 500 ml of toluene, and insoluble matter was removed by filtration. Then, the filtrate was concentrated to dryness. The resulting solid matter was purified by column chromatography (carrier: silica gel, eluent: toluene:hexane=1:2) to obtain 11.8 g of N,N,N′,N′-tetra-p-tolyl-4,4″-diamino-p-terphenyl (comparative compound No. 1) (yield: 65.7%, melting point: 232.5 to 233.5° C.).

reactant | Di-p-tolylamine | 0.065 mol, 12.8 g | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C)C | C14H15N
reactant | 4,4″-diiodo-p-terphenyl | 0.029 mol, 14.0 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)I | C18H12I2
reactant | potassium carbonate | 0.034 mol, 4.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.008 mol, 0.51 g | [Cu] | Cu
solvent | n-dodecane | 30 ml | CCCCCCCCCCCC | C12H26
product | N,N,N′,N′-tetra-p-tolyl-4,4″-diamino-p-terphenyl | 11.8 g, yield: 65.7% | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C46H40N2
